US04470976
4-Hydroxyphenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside
A solution of 4.0 g of 4-hydroxyphenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside in 53 ml of a mixture of 2N triethylamine:methanol:water (3:6:2) was stirred for 4 hours, chilled overnight and then concentrated to an oil. This oil was dissolved in water, extracted with three 500 ml portions of ether and both the water and ether layers were concentrated and combined. The combined concentrate was dissolved in 200 ml of water, acidified to pH 4 and chromatographed on Amberlite® XAD-2 resin, eluting with 500 ml of water, then 500 ml of methanol. The methanol extract was concentrated, giving 1.2 g of the desired intermediate [α]D26 =+31°±1° (1.144%, methanol).

reactant | 4-hydroxyphenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 4.0 g | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)O)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H40O18S
solvent | triethylamine methanol water | 2N | C(C)N(CC)CC.CO.O
product | 4-Hydroxyphenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 1.2 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC=C(C=C2)O)O[C@@H]1CO)O)O | C18H26O11S
